US06815455B1
Synthesis of 2-(5-hydroxypentylthio)-5-methylbenzimidazole
2.46 g of 5-methyl-2-mercaptobenzimidazole and 3.4 g of 5-bromopentyl acetate were dissolved in 30 ml of ethanol and the mixture was refluxed with stirring under heating for 7 hours. After cooling to room temperature, the reaction mixture was added with was 22.5 ml of 2 N sodium hydroxide solution and stirred at room temperature for 1 hour, and then poured into water and extracted with ethyl acetate. The ethyl acetate layer was washed with saturated brine and dried over sodium sulfate and the solvent was evaporated under reduced pressure. The residue was purified by silica gel column chromatography (methylene chloride:methanol=95:5) to obtain 3.04 g of the title compound as pale yellow oil (yield: 81%).

reactant | 5-methyl-2-mercaptobenzimidazole | 2.46 g | CC1=CC2=C(N=C(N2)S)C=C1 | C8H8N2S
reactant | 5-bromopentyl acetate | 3.4 g | C(C)(=O)OCCCCCBr | C7H13BrO2
reactant | sodium hydroxide | 2 N, 22.5 ml | [OH-].[Na+]
reactant | water | O | H2O
solvent | ethanol | 30 ml | C(C)O | C2H6O
product | 2-(5-hydroxypentylthio)-5-methylbenzimidazole | 3.04 g, yield: 81% | OCCCCCSC=1NC2=C(N1)C=CC(=C2)C | C13H18N2OS
